US07868030B2
m-Toluenesulfonyl chloride (0.076 ml, 0.53 mmol, 1.4 equiv.) and pyridine (0.103 ml, 1.27 mmol, 3.4 equiv.) were added to a stirred suspension of sodium cyanate (56 mg, 0.86 mmol, 2.3 equiv.) in dry acetonitrile (1 ml) and the mixture stirred at room temperature for 3 hours. 2-Amino-4,5-dimethylthiazole hydrochloride (34 mg, 0.28 mmol, 1.0 equiv.) was added and the reaction stirred for 1 hour. Water (2 ml) and acetic acid (3 drops) were added. The resulting precipitate was centrifuged for 10 minutes and the supernatant decanted. The solid washed with water (2 ml), the material centrifuged and supernatant decanted. The solid was dried under reduced pressure at 40° C. to give N-[(4,5-dimethyl-1,3-thiazol-2-yl)carbamoyl]-3-methylbenzenesulfonamide, 49 mg (55% yield). LC @UV215 nm; Rt 1.81: 93%, m/z (ES+): 326 (MH+), 651 (2 MH+); δH(400 MHz; d4-methanol) 7.54-7.98 (4H, m), 2.57 (3H, s), 2.31 (3H, s), 2.27 (3H, s).

reactant | m-Toluenesulfonyl chloride | 0.53 mmol, 0.076 ml, 1.4 equiv. | C1(=CC(=CC=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 1.27 mmol, 0.103 ml, 3.4 equiv. | N1=CC=CC=C1 | C5H5N
reactant | sodium cyanate | 0.86 mmol, 56 mg, 2.3 equiv. | [O-]C#N.[Na+]
reactant | 2-Amino-4,5-dimethylthiazole hydrochloride | 0.28 mmol, 34 mg, 1.0 equiv. | Cl.NC=1SC(=C(N1)C)C
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | Water | 2 ml | O | H2O
product | N-[(4,5-dimethyl-1,3-thiazol-2-yl)carbamoyl]-3-methylbenzenesulfonamide | 55% yield | CC=1N=C(SC1C)NC(=O)NS(=O)(=O)C1=CC(=CC=C1)C | C13H15N3O3S2
